US07598391B2
{2-[3-(1-Acetyl-piperidin-3 (S)-yl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid
{2-[3-(1-Acetyl-piperidin-3 (S)-yl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester prepared as described in general procedures (A) and (B). using 1-(3 (S)-cyclohexylamino-piperidin-1-yl)-ethanone and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | {2-[3-(1-Acetyl-piperidin-3 (S)-yl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1CCCCC1)[C@@H]1CN(CCC1)C(C)=O)=O | C21H32N4O4S2
reactant | 1-(3 (S)-cyclohexylamino-piperidin-1-yl)-ethanone | C1(CCCCC1)N[C@@H]1CN(CCC1)C(C)=O | C13H24N2O
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(1-Acetyl-piperidin-3 (S)-yl)-3-cyclohexyl-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C(C)(=O)N1C[C@H](CCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCCCC1 | C19H28N4O4S2
